US08293768B2
Synthesis of 2-(3-(4-fluorobenzyl)-2-oxotetrahydropyrimidin-1(2H)-yl)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide
Following the procedure as described in Example 32, making variations as required to replace 2-(3-((5-chlorobenzo[b]thiophen-3-yl)methyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid with 2-(3-(4-fluorobenzyl)-2-oxotetrahydropyrimidin-1(2H)-yl)-4-methylthiazole-5-carboxylic acid to react with pyridin-3-ylmethanamine, the title compound was obtained as a colorless solid in 15% yield: mp 48-50° C. (dichloromethane/hexanes); 1H NMR (300 MHz, CDCl3) δ 8.60-8.54 (m, 2H), 7.70 (d, J=7.6 Hz, 1H), 7.31-7.25 (m, 3H), 7.04-6.99 (m, 2H), 6.05-6.01 (m, 1H), 4.59-4.57 (m, 4H), 4.17 (t, J=5.8 Hz, 2H), 3.32 (t, J=5.8 Hz, 2H), 2.62 (s, 3H), 2.11-2.04 (m, 2H); MS (ES+) m/z 440.2 (M+1).

reactant | 2-(3-((5-chlorobenzo[b]thiophen-3-yl)methyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | ClC1=CC2=C(SC=C2CN2C(N(CC2)C=2SC(=C(N2)C)C(=O)O)=O)C=C1 | C17H14ClN3O3S2
reactant | 2-(3-(4-fluorobenzyl)-2-oxotetrahydropyrimidin-1(2H)-yl)-4-methylthiazole-5-carboxylic acid | FC1=CC=C(CN2C(N(CCC2)C=2SC(=C(N2)C)C(=O)O)=O)C=C1 | C16H16FN3O3S
reactant | pyridin-3-ylmethanamine | N1=CC(=CC=C1)CN | C6H8N2
product | 2-(3-(4-fluorobenzyl)-2-oxotetrahydropyrimidin-1(2H)-yl)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide | 15% yield | FC1=CC=C(CN2C(N(CCC2)C=2SC(=C(N2)C)C(=O)NCC=2C=NC=CC2)=O)C=C1 | C22H22FN5O2S
